US07553854B2
Step 1. Synthesis of 1-Cyano-cyclohexanecarboxylic acid ethyl ester
To a solution of cyanoacetate (1 eq) in DMF at 0° C. was slowly added cesium carbonate (2.5 eq), followed by the slow addition of 1,5-dibromopentane. This mixture was allowed to stir for 30 minutes at 0° C. and at room temperature for two hours. The crude reaction mixture was diluted with ethyl acetate and washed three times with water, dried with anhydrous sodium sulfate, filtered, and concentrated. The compound was clean enough to continue without purification. 57% yield. 1H NMR (300 MHz, CDCl3) δ 4.25 (q, 2H), 2.12-1.68 (m, 10H), 1.31 (t, 3H).

reactant | cyanoacetate | 1 eq | C(#N)CC(=O)[O-]
reactant | cesium carbonate | 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Cyano-cyclohexanecarboxylic acid ethyl ester | 57% yield | C(C)OC(=O)C1(CCCCC1)C#N | C10H15NO2
